US06264917B1
a) Synthesis of 4′-[(3,4-dimethyl-5-isoxazolyl)sulfamoyl]succinanilic acid
To a solution of sulfisoxazole (267 mg, 1.00 mmol) in DMF (10 ml) was added succinic anhydride (1.00 g, 10.0 mmol) and 4-dimethylaminopyridine (122 mg, 1.00 mmol). The reaction mixture was stirred at 80° C. for 2 hours and then concentrated. The residue was taken up in 5% aqueous sodium bicarbonate solution and extracted with ethyl acetate. The aqueous solution was acidified with dilute hydrochloric acid and organic material was extracted into ethyl acetate. The organic phase was washed with dilute hydrochloric acid, water and brine, treated with active charcoal and dried (MgSO4). The solution was filtered and concentrated to give 280 mg (76%) of white solid. The structure was verified by 1H (300 MHz) and 13C (75 MHz) NMR spectroscopy. Further characterisation was carried out using MALDI mass spectrometry (ACH matrix), giving a M+Na peak at m/z 390 and a M+K peak at m/z 406 as expected.

reactant | sulfisoxazole | 1.00 mmol, 267 mg | CC=1C(=NOC1NS(=O)(=O)C=2C=CC(=CC2)N)C | C11H13N3O3S
reactant | succinic anhydride | 10.0 mmol, 1.00 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 1.00 mmol, 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4′-[(3,4-dimethyl-5-isoxazolyl)sulfamoyl]succinanilic acid | 280 mg, 76% | CC1=NOC(=C1C)NS(=O)(=O)C1=CC=C(NC(CCC(=O)O)=O)C=C1 | C15H17N3O6S
